US06147088
Step 15B N-[7-chloro-3-(3,5-dimethylphenyl)-6-nitro-2-oxo-1,2-dihydroquinolin-4-yl]-2,2,2-trifluoroacetamide
To a suspension of 4-amino-7-chloro-3-(3,5-dimethylphenyl)-6-nitro-1H-quinolin-2-one (46 mg in a mixture of 1.0 mL methylene chloride and 1.5 mL pyridine) was added 0.020 mL trifluoroacetic anhydride and the mixture stirred at room temperature. After 30 minutes, the mixture was diluted with ethyl acetate and washed with water. The organic portion was washed with brine, dried over sodium sulfate and concentrated in vacuo. Recrystallization from warm methylene chloride gave the title compound (45 mg).

reactant | 4-amino-7-chloro-3-(3,5-dimethylphenyl)-6-nitro-1H-quinolin-2-one | NC1=C(C(NC2=CC(=C(C=C12)[N+](=O)[O-])Cl)=O)C1=CC(=CC(=C1)C)C | C17H14ClN3O3
reactant | trifluoroacetic anhydride | 0.020 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 1.0 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[7-chloro-3-(3,5-dimethylphenyl)-6-nitro-2-oxo-1,2-dihydroquinolin-4-yl]-2,2,2-trifluoroacetamide | 45 mg | ClC1=C(C=C2C(=C(C(NC2=C1)=O)C1=CC(=CC(=C1)C)C)NC(C(F)(F)F)=O)[N+](=O)[O-] | C19H13ClF3N3O4
